US07335660B2
d) 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol
To a solution of 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)acetic acid (21.3 g, 78.6 mmol) in anhydrous THF (65 mL) under an atmosphere of nitrogen and cooled to 0° C., was added dropwise borane.THF complex in THF (1M) (94 mL, 94 mmol). After stirring for 1 h between 0 and 10° C., the reaction mixture was treated with aqueous sodium carbonate then extracted into toluene. The organic layer was washed with dilute aqueous hydrochloric acid, then concentrated in vacuo to give the title compound as a white solid.

reactant | 2-((1S)-6-bromo-3,4-dihydro-1H-2-benzopyran-1-yl)acetic acid | 78.6 mmol, 21.3 g | BrC=1C=CC2=C(CCO[C@H]2CC(=O)O)C1 | C11H11BrO3
reactant | borane | B | BH3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 94 mmol, 1M, 94 mL | C1CCOC1 | C4H8O
product | 2-((1S)-6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)ethanol | BrC=1C=CC2=C(CCO[C@H]2CCO)C1 | C11H13BrO2
